US04851434
N-Lactoylglucamine (Reaction product of glucamine and lactic acid)
Equimolar quantities of lactic acid and glucamine were mixed together. This mixture was then heated at 120° C. for 2 hours and the resulting water of reaction was continuously removed. The final product was a viscous, amber colored liquid.

reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | glucamine | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
solvent | water | O | H2O
product | N-Lactoylglucamine | C(C(O)C)(=O)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H19NO7
